US04910201
Synthesis of 4-chloro-2-(4-chlorophenyl)-5-(2,4-dichlorobenzyloxy)-3(2H)-pyridazinone (Compound No. 39)
In 50 ml of N,N-dimethylformamide were dissolved 1.5 g (5.9 m mol) of 4-chloro-2-(4-chlorophenyl)-5-hydroxy-3(2H)-pyridazinone and 1.3 g (6.6 m mol) of 2,4-dichlorobenzyl chloride, and thereto was added 0.7 g of triethylamine. The reaction mixture was heated under stirring on an oil bath at 100° to 120° C. for 7 hours. After allowing to cool, the reaction mixture was poured into 200 ml of water and the precipitated solid was taken out by filtration, washed with water, dried and then recrystallized from benzene to give 1.7 g of the intended compound.

reactant | 4-chloro-2-(4-chlorophenyl)-5-hydroxy-3(2H)-pyridazinone | 1.5 g | ClC=1C(N(N=CC1O)C1=CC=C(C=C1)Cl)=O | C10H6Cl2N2O2
reactant | 2,4-dichlorobenzyl chloride | 1.3 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-(4-chlorophenyl)-5-(2,4-dichlorobenzyloxy)-3(2H)-pyridazinone | 1.7 g | ClC=1C(N(N=CC1OCC1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)=O | C17H10Cl4N2O2
